US04599406
The cinnamoyl anhydride and the other mixed anhydrides of 4-cinnamoyloxy-2-methyl-2H-1,2-benzothiazine-3-carboxylic acid 1,1-dioxide prepared respectively according to Example 12 or Example 13 are directly reacted, without previous purification or recovery from their methylene chloride solution, with 2-2.5 molar equivalents of 2-aminopyridine with stirring and external cooling. After dilution with 3 volumes of diethyl ether the reaction mixture is stirred at 15° C. for 3 hours, then the procedure of Example 16 is repeated obtaining the desired 4-cinnamoyloxy-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide.

reactant | 4-cinnamoyloxy-2-methyl-2H-1,2-benzothiazine-3-carboxylic acid 1,1-dioxide | C(C=CC1=CC=CC=C1)(=O)OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)O | C19H15NO6S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-cinnamoyloxy-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | C(C=CC1=CC=CC=C1)(=O)OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=NC=CC=C2 | C24H19N3O5S
